US09353108B2
H) Dimethyl 2-chloro-6-ethylpyridine-3,5-dicarboxylate
Phosphorus oxychloride (0.731 mL) was added to a mixture of dimethyl 2-ethyl-6-hydroxypyridine-3,5-dicarboxylate (1.25 g) and acetonitrile (15 mL), and the resultant mixture was stirred overnight at 90° C. in a nitrogen atmosphere. The reaction mixture was allowed to cool to room temperature, and then, a saturated aqueous solution of sodium bicarbonate was added thereto, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.35 g).

reactant | Phosphorus oxychloride | 0.731 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethyl 2-ethyl-6-hydroxypyridine-3,5-dicarboxylate | 1.25 g | C(C)C1=NC(=C(C=C1C(=O)OC)C(=O)OC)O | C11H13NO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | Dimethyl 2-chloro-6-ethylpyridine-3,5-dicarboxylate | 1.35 g | ClC1=NC(=C(C=C1C(=O)OC)C(=O)OC)CC | C11H12ClNO4
